US08609647B2
(13) Optically-Active Compound of 3-[3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.4] oct-1-yl]-3-oxopropionitrile
An optically-active compound of 4-(3,3-difluoro-1,6-diazaspiro[3,4]oct-6-yl)-7H-pyrrolo[2,3-d]pyrimidine (170 mg) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (209 mg), N,N-diisopropylethylamine (117 μl) and 1,4-dioxane (3.4 ml), and the mixture was stirred at 100° C. for 75 minutes. The mixture was cooled to room temperature. Thereto was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The separated aqueous layer was extracted with ethyl acetate twice again. The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/ethyl acetate=2/1, followed by chloroform/methanol=92/8 to 3/1). The mixture was concentrated under reduced pressure, and the resulting residue was slurry-washed with a mixed solvent of n-heptane/ethanol (3/1) to give the titled compound (177 mg).

reactant | 4-(3,3-difluoro-1,6-diazaspiro[3,4]oct-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 170 mg | FC1(CNC12CN(CC2)C=2C1=C(N=CN2)NC=C1)F | C12H13F2N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 209 mg | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | N,N-diisopropylethylamine | 117 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 3.4 ml | O1CCOCC1 | C4H8O2
product | 3-[3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.4] oct-1-yl]-3-oxopropionitrile | 177 mg | FC1(CN(C12CN(CC2)C=2C1=C(N=CN2)NC=C1)C(CC#N)=O)F | C15H14F2N6O
